US06995144B2
3-[3-(2-Fluorophenoxymethyl)pyrrolidino]methyl-2-methoxypyrazine
After dissolving 148 mg of 3-methoxypyrazine-2-carboxaldehyde and 200 mg of 3-(2-fluorophenoxymethyl)pyrrolidine in 5 ml of dichloromethane, 0.07 ml of acetic acid and 297 mg of sodium triacetoxyborohydride were added and the mixture was stirred overnight at room temperature. Aqueous sodium carbonate solution was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (245 mg, 77% yield).

reactant | 3-methoxypyrazine-2-carboxaldehyde | 148 mg | COC=1C(=NC=CN1)C=O | C6H6N2O2
reactant | 3-(2-fluorophenoxymethyl)pyrrolidine | 200 mg | FC1=C(OCC2CNCC2)C=CC=C1 | C11H14FNO
reactant | sodium triacetoxyborohydride | 297 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | acetic acid | 0.07 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[3-(2-Fluorophenoxymethyl)pyrrolidino]methyl-2-methoxypyrazine | 245 mg, 77% yield | FC1=C(OCC2CN(CC2)CC=2C(=NC=CN2)OC)C=CC=C1 | C17H20FN3O2
